US04797391
[(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid (3.82 g, 10 mMole) is dissolved in tetrahydrofuran (30 ml) and 1,1-carbonyldiimidazole (1.78 g, 11 mMole) and the mixture stirred at ambient temperature for 30 minutes. The solution is saturated with ammonia gas and then stirred at ambient temperature for 24 hours and at 50° for 16 hours. Evaporation of the solvent and addition of water yields [(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetamide which is separated by filtration, washed with water, and dried.

reactant | [(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid | 10 mMole, 3.82 g | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC(=O)O)=O)CCC)=O | C18H16Cl2O5
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetamide | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC(=O)N)=O)CCC)=O | C18H17Cl2NO4
